US05510366
(1) Ethyl 4-allyloxyindole-2-carboxylate
50 mg (0.24 mmol) of ethyl 4-hydroxyindole-2-carboxylate (U.S. Pat. No. 3,705,907), 48 mg (0.29 mmol) of allyl iodide, and 33 mg (0.24 mmol) of potassium carbonate were added to 0.5 ml of N,N-dimethylformamide, and the mixture was stirred for 1 hour and 45 minutes at 50° C. After the reaction, the solvent was evaporated. The residue was dissolved in chloroform, washed with saturated aqueous solution of sodium hydrogen carbonate and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain 63 mg of a crude product, which was purified by separation thin layer chromatography (silica gel, chloroform: methanol=30:1) to obtain 42 mg (yield: 70.2%) of the target compound. This compound was recrystallized from a mixture of chloroform and n-hexane to obtain light brown needles of the title compound.

reactant | ethyl 4-hydroxyindole-2-carboxylate | 0.24 mmol, 50 mg | OC1=C2C=C(NC2=CC=C1)C(=O)OCC | C11H11NO3
reactant | allyl iodide | 0.29 mmol, 48 mg | C(C=C)I | C3H5I
reactant | potassium carbonate | 0.24 mmol, 33 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-allyloxyindole-2-carboxylate | 42 mg, yield: 70.2% | C(C=C)OC1=C2C=C(NC2=CC=C1)C(=O)OCC | C14H15NO3
